US08309725B2
By the reaction of the cyclohexanetriamine with dimethyl oxalate to give a quinoxaline derivative in step d) of the process according to the invention, a racemate comprising two enantiomers is formed.

reactant | cyclohexanetriamine | C1(C(CCCC1)N)(N)N | C6H15N3
reactant | dimethyl oxalate | C(C(=O)OC)(=O)OC | C4H6O4
product | quinoxaline | N1=CC=NC2=CC=CC=C12 | C8H6N2
